US07705028B2
12b) 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarbonitrile
To a solution of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxamide (94 mg, 0.18 mmol) and triethylamine (0.111 mL, 0.80 mmol) in methylene chloride (2 mL) at ambient temperature under nitrogen was added phosphrous oxychloride (0.068 mL, 0.71 mmol). The mixture was stirred at ambient temperature for four hours, at which time an additional equivalent of phosphorous oxychloride (0.027 mL) was added. Ammonium hydrogen carbonate (25 mg, 0.273 mmol) was then added to the mixture and the reaction was stirred at ambient temperature for 48 hours. The solvent was then removed on a rotary evaporator and the crude residue was dissolved in ethyl acetate. The organic solution was then washed with water three times, followed by saturated sodium bicarbonate, and then brine. The crude organic extract was then dried over magnesium sulfate, filtered, and then evaporated to dryness to give the title compound (89 mg, 98%).

reactant | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxamide | 0.18 mmol, 94 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)N)C(C)C | C30H24Cl2N2O3
reactant | triethylamine | 0.80 mmol, 0.111 mL | C(C)N(CC)CC | C6H15N
reactant | oxychloride | 0.71 mmol, 0.068 mL | O(Cl)Cl | Cl2O
reactant | phosphorous oxychloride | 0.027 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Ammonium hydrogen carbonate | 0.273 mmol, 25 mg | C(O)([O-])=O.[NH4+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarbonitrile | 89 mg, 98% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C#N)C(C)C | C30H22Cl2N2O2
